US07459562B2
G) 1-(4-(3-(2-(4-Aminocyclohex-1-enyl)ethynyl)pyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea, dihydrochloride salt
A solution of tert-butyl 4-(2-(4-(2-fluoro-4-(3-(2-(4-fluorophenyl)acetyl)ureido)phenoxy)pyridin-3-yl)ethynyl)cyclohex-3-enylcarbamate (40 mg, 0.066 mol) in anhydrous 1,4-dioxane (2 mL) was cooled to −10° C. and treated with 4 M HCl/1,4-dioxane (4 mL). The mixture was stirred at −5° C. for 2.5 h then at rt for 1 h. The mixture was concentrated under vacuum without any heating to give the title compound (32 mg, 84%) as a yellow solid. 1H NMR (DMSO-d6) δ 11.05 (s, 1H), 10.61 (s, 1H), 8.69 (s, 1H), 8.44 (d, 1H, J=6.1 Hz), 8.06 (d, 1H, J=2.0 Hz), 7.80 (dd, 1H, J=12.7, 2.0 Hz), 7.46-7.38 (m, 1H), 7.35 (dd, 1H, J=8.6, 5.6 Hz), 7.19-7.13 (m, 1H), 6.82 (d, 1H, J=5.6 Hz), 6.17 (s, 1H), 3.74 (s, 2H), 3.73-3.62 (m, 2H), 3.62-3.54 (m, 1H), 3.34-3.22 (m, 1H), 2.31 (s, 1H), 1.99-1.96 (m, 1H), 1.71-1.66 (m, 1H); MS(ESI+): m/z 503.12 (M+H)+.

reactant | tert-butyl 4-(2-(4-(2-fluoro-4-(3-(2-(4-fluorophenyl)acetyl)ureido)phenoxy)pyridin-3-yl)ethynyl)cyclohex-3-enylcarbamate | 0.066 mol, 40 mg | FC1=C(OC2=C(C=NC=C2)C#CC2=CCC(CC2)NC(OC(C)(C)C)=O)C=CC(=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O | C33H32F2N4O5
reactant | HCl 1,4-dioxane | 4 M, 4 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(3-(2-(4-Aminocyclohex-1-enyl)ethynyl)pyridin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea, dihydrochloride salt | 32 mg, 84% | Cl.Cl.NC1CC=C(CC1)C#CC=1C=NC=CC1OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)F | InChI=1S/C28H24F2N4O3.2ClH/c29-21-7-2-19(3-8-21)15-27(35)34-28(36)33-23-11-12-26(24(30)16-23)37-25-13-14-32-17-20(25)6-1-18-4-9-22(31)10-5-18;;/h2-4,7-8,11-14,16-17,22H,5,9-10,15,31H2,(H2,33,34,35,36);2*1H
